US04075203
Preparation of p-Nitrobenzyl 7-Phenoxyacetamido-3-methylenecepham-4-carboxylate-1-oxide (pilot plant scale in glass).
To a 200 gallon glass-lined still were added 400 liters of binary-dried toluene. To the toluene then were added 14.6 kg. of calcium oxide, 14.6 kg. of p-nitrobenzyl 6-phenoxyacetamido-2,2-dimethylpenam-3-carboxylate-1-oxide, and 6.67 kg. of N-chlorophthaimide. The mixture was heated to 100° C., and 11.68 liters of propylene oxide were added over a 4 minute period. The mixture was refluxed at a temperature of 102°-103° C. for about 90 minutes and then was concentrated over a period of about 45 minutes. About 71 liters of material were removed, and the temperature of the mixture rose from about 103° C. to about 110°-111° C. The mixture then was cooled to about 95° C. and was filtered into a mixture of 7.3 liters of stannic chloride in 108 liters of toluene, the total having been cooled to -6° C. Upon completion of the filtration, an additional 30 liters of toluene were added to facilitate complete transfer of the mixture. The mixture then was allowed to stir overnight at a temperature of from about 17°-20° C. The resulting solid was collected by filtration and was dissolved in 73 liters of acetone. To the acetone solution then were added 146 liters of ethyl acetate followed by 292 liters of water. The mixture was stirred for 5 minutes and then was separated. The organic layer was concentrated in vacuo to about 135 liters, cooled to 0°-5° C., and maintained at that temperature overnight. The resulting mixture was filtered, and the collected solid was washed with 25 liters of ethyl acetate and dried at 50° C. to obtain 6.8 kg. (46.9%) of the title compound.

reactant | calcium oxide | [O-2].[Ca+2]
reactant | p-nitrobenzyl 6-phenoxyacetamido-2,2-dimethylpenam-3-carboxylate-1-oxide | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2=O)(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H23N3O8S
reactant | propylene oxide | 11.68 liters | C1C(C)O1 | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 400 liters | C1(=CC=CC=C1)C | C7H8
product | p-Nitrobenzyl 7-Phenoxyacetamido-3-methylenecepham-4-carboxylate-1-oxide | 46.9% | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2=O)=C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O8S
